US07432266B2
2,6-difluoropyridine (5.0 mL, 0.0551 mol) in tetrahydrofuran (55 mL) was slowly added to a 1-necked flask containing lithium diisopropylamide (31 mL, 1.8 M in tetrahydrofuran) at −78° C. The reaction was stirred at this temperature for 30 minutes and then propionaldehyde (3.96 mL, 0.0551 mol) was added. After stirring at this temperature for an additional 30 minutes, the reaction was quenched by the addition of a saturated solution of ammonium chloride (20 mL). The product was extracted with diethylether, and purified by column chromatography using as eluent 10% ethyl acetate in hexanes to provide 6.7 g (70%) of 1-(2,6-difluoropyridin-3-yl)propan-2-ol.

reactant | 2,6-difluoropyridine | 0.0551 mol, 5.0 mL | FC1=NC(=CC=C1)F | C5H3F2N
reactant | lithium diisopropylamide | 1.8 M, 31 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | propionaldehyde | 0.0551 mol, 3.96 mL | C(CC)=O | C3H6O
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
product | 1-(2,6-difluoropyridin-3-yl)propan-2-ol | 6.7 g, 70% | FC1=NC(=CC=C1CC(C)O)F | C8H9F2NO
